US06784137B2
(Diethylamino)sulfur trifluoride (0.73 mL, 5.5 mmol) was added dropwise to a solution of methyl 4-amino-3-chloro-6-(4-hydroxymethylphenyl)pyridine-2-carboxylate (1.46 g, 5.0 mmol) in dichloromethane (35 mL) at 0° C. The reaction mixture was stirred for 15 minutes and then quenched with ice followed by water. The product was extracted with ethyl acetate and the organic phase was washed with brine and concentrated. The residue was purified by column chromatography (dichloromethane/hexane) giving methyl 4-amino-3-chloro-6-(4-fluoromethylphenyl)pyridine-2-carboxylate (480 mg, 1.6 mmol), mp 95-97° C.

reactant | (Diethylamino)sulfur trifluoride | 5.5 mmol, 0.73 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | methyl 4-amino-3-chloro-6-(4-hydroxymethylphenyl)pyridine-2-carboxylate | 5.0 mmol, 1.46 g | NC1=C(C(=NC(=C1)C1=CC=C(C=C1)CO)C(=O)OC)Cl | C14H13ClN2O3
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | methyl 4-amino-3-chloro-6-(4-fluoromethylphenyl)pyridine-2-carboxylate | 1.6 mmol, 480 mg | NC1=C(C(=NC(=C1)C1=CC=C(C=C1)CF)C(=O)OC)Cl | C14H12ClFN2O2
